US04252593
To 3000 g of phenyl glycidyl ether (epoxide content 6.16 equiv./kg) containing 9 g of tetramethylammonium chloride and 6 g of 2,6-di-t-butyl-p-cresol, stirred at 100°, was added 1332 g of acrylic acid over one hour. The mixture was stirred at 100° for a further 4 hours, by which time the epoxide content was 0.91 equiv./kg and the viscosity was 60 cP at 25°, to yield 3-phenoxy-2-hydroxypropyl acrylate.

reactant | phenyl glycidyl ether | 3000 g | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 2,6-di-t-butyl-p-cresol | 6 g | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | acrylic acid | 1332 g | C(C=C)(=O)O | C3H4O2
catalyst | tetramethylammonium chloride | 9 g | [Cl-].C[N+](C)(C)C
product | 3-phenoxy-2-hydroxypropyl acrylate | C(C=C)(=O)OCC(COC1=CC=CC=C1)O | C12H14O4
